US09260408B2
N-((5-Bromo-4-methylpyridin-3-yl)methyl)ethanesulfonamide
In analogy to the procedure described for the preparation of intermediate A-11, 5-bromo-4-methyl-pyridine-3-carbaldehyde has been reacted first with ethanesulfonamide, followed by reduction of the thus formed imine with NaBH4 in MeOH to give the title compound as an off-white solid. MS: 293.1 and 295.3 (M+H+).

reactant | 5-bromo-4-methyl-pyridine-3-carbaldehyde | BrC=1C(=C(C=NC1)C=O)C | C7H6BrNO
reactant | ethanesulfonamide | C(C)S(=O)(=O)N | C2H7NO2S
reactant | NaBH4 | [BH4-].[Na+]
solvent | MeOH | CO | CH4O
product | N-((5-Bromo-4-methylpyridin-3-yl)methyl)ethanesulfonamide | BrC=1C(=C(C=NC1)CNS(=O)(=O)CC)C | C9H13BrN2O2S
